US07795267B2
Tetrahydro-γ,3-dioxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-butanoic acid
To a solution of hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.15 g, 0.50 mmol) in tetrahydrofuran (10 mL) were added triethylamine (0.14 mL, 1.0 mmol) and succinic anhydride (55 mg, 0.55 mmol), and the mixture was stirred at room temperature for 2 hours. To the reaction solution was added ethyl acetate, and the resulting mixture was washed with 2 M hydrochloric acid, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate). The fractions were concentrated, and to the residue was added diethyl ether. The resulting crystals were collected by filtration and washed with diethyl ether to obtain the title compound (99 mg, yield 50%).

reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.50 mmol, 0.15 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | triethylamine | 1.0 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | succinic anhydride | 0.55 mmol, 55 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Tetrahydro-γ,3-dioxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-butanoic acid | 99 mg, yield 50% | O=C(CCC(=O)O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O | C22H22N2O5
